*====================================================
* SPX3819M5-L-3-3 - Altium Compatible Model
* Behavioral LDO Regulator
*====================================================

.SUBCKT SPX3819 VIN VOUT GND EN

* PARAMETERS
.PARAM VREF=3.3
.PARAM VDROP=0.34
.PARAM ILIM=0.9
.PARAM ROUT=0.05

* Enable logic (EN > 1V)
EEN VEN 0 VALUE = { V(EN) > 1 }

* Regulator core (with dropout)
EREG VREG 0 VALUE = { V(VEN)*LIMIT(V(VIN)-VDROP, 0, VREF) }

* Output resistance
Rout VREG VOUT {ROUT}

* Current sense
Rsense VOUT VSENSE 0.01

* Current limit clamp
GCLAMP VOUT 0 VALUE = { 
    IF(I(Rsense) > ILIM, -(I(Rsense)-ILIM)*5, 0)
}

* Ground reference
RGND GND 0 1m

.ENDS SPX3819
