* PSpice Unencrypted File
* 
* This unencrypted file has been supplied by
* Toshiba Electronic Devices & Storage Corporation
* that does not wish to publicize the technology
* used to implement this library.
* 
* Permission is granted to use this file for
* simulations but not to reverse engineer its
* contents.
* When using Simulation Model, please be sure to
* visit "Simulation" page and re-confirm
* Restrictions on Usage, Limitations and others in
* "Cautions on Simulation Model" on Toshiba Electronic
* Devices & Storage Corporation website.
*
*********************************************************************************
* (C) Copyright 2021 Toshiba Electronic Devices & Storage Corporation
* Date            : 24/02/2021
* File Name       : TPH4R008NH_G0_00_PSpice_rev1.lib
* Part Number     : TPH4R008NH_G0_00
* Parameter Rev.  : 1
* Simulator       : PSpice (OrCAD 17.2)
* Model Call Name : TPH4R008NH_G0_00
* TNOM            : 25 degree
* Pin Assign      : 1=Drain 2=Gate 3=Source
*
* Operation of this model has been verified only on the PSpice (OrCAD 17.2)
*********************************************************************************
.SUBCKT TPH4R008NH_G0_00 1 2 3
M0 1 22 3 3 smsmosfet
+ L=2e-06
+ W=7
+ AD=7e-06
+ AS=7e-06
+ PD=14
+ PS=14
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 1.2
.MODEL smsmosfet NMOS
+ LEVEL=7
+ MOBMOD=1
+ CAPMOD=3
+ NOIMOD=1
+ TOX=3.4e-08
+ XJ=1.5E-007
+ NCH=1.7E+017
+ NGATE=0
+ RSH=0
+ TNOM=25
+ VTH0=3.9
+ VOFF=-0.15
+ NFACTOR=2.8
+ U0=1500
+ K1=0.53
+ K2=-0.0186
+ K3=80
+ K3B=0
+ W0=2.5E-006
+ NLX=1.74E-007
+ DVT0=2.2
+ DVT1=0.53
+ DVT2=-0.032
+ DVT0W=0
+ DVT1W=5.3E+006
+ DVT2W=-0.032
+ DWG=0
+ DWB=0
+ UA=7.503e-10
+ UB=5.87E-019
+ UC=-4.65E-011
+ VSAT=30112.1082
+ A0=13.3354
+ AGS=0.70527
+ B0=0
+ B1=0
+ KETA=-0.047
+ A1=0
+ A2=1
+ DELTA=0.093956
+ RDSW=20000
+ PRWG=0
+ PRWB=0
+ WR=1
+ CDSC=2.4E-004
+ CDSCD=0
+ CDSCB=0
+ CIT=0
+ ETA0=0.08
+ ETAB=-0.07
+ DSUB=0.56
+ PCLM=8.0272
+ PDIBLC1=0.39
+ PDIBLC2=0.034556
+ PDIBLCB=0
+ DROUT=0.56
+ PSCBE1=4.24E+008
+ PSCBE2=1E-009
+ PVAG=0
+ ALPHA0=0
+ ALPHA1=0
+ BETA0=30
+ NJ=1
+ JS=0
+ XPART=0
+ CGSO=1.8e-09
+ CGDO=1e-12
+ CGBO=0
+ CGDL=9.5e-10
+ CGSL=2.5e-10
+ CKAPPA=1
+ CF=0
+ CLC=1E-007
+ CLE=0.6
+ VOFFCV=0
+ NOFF=1
+ DLC=0
+ ACDE=1
+ MOIN=15
+ CJ=0
+ CJSW=1E-012
+ CJSWG=1E-012
+ PB=1
+ PBSW=1
+ PBSWG=1
+ MJ=0.5
+ MJSW=0.33
+ MJSWG=0.33
+ AF=1
+ EF=1
+ KF=0
+ UTE=-0.1
+ KT1=-1.2
+ KT1L=0
+ KT2=0.022
+ UA1=4.31E-009
+ UB1=-7.61E-018
+ UC1=-5.6E-011
+ AT=3.3E+004
+ PRT=55000
+ XTI=3
+ TCJ=0
+ TPB=0
+ TCJSW=0
+ TPBSW=0
+ TCJSWG=0
+ TPBSWG=0
+ DWC=3
.MODEL DDS1 D
+ TNOM=25
+ IS=8.5628e-10
+ RS=0.001024
+ N=1.3008
+ CJO=3.5e-09
+ VJ=2
+ M=0.54
+ XTI=3
+ TT=3.4e-08
+ BV=80
+ IBV=0.01
.MODEL DDS2 D
+ TNOM=25
+ IS=8.5628e-10
+ RS=0.001024
+ N=1.3008
+ CJO=1E-15
+ VJ=0.7
+ M=0.3
+ XTI=3
+ TT=3.4e-08
.MODEL DGS1 D
+ TNOM=25
+ IS=1E-015
.MODEL DGS2 D
+ TNOM=25
+ IS=1E-015
.ENDS



