* SPICE model small signal diode ***BAT54C***
* Use with symbol file ***bat54c.asy***
*
* (c) Diotec Semiconductor AG
* www.diotec.com
* 2017-12-05
*
*********************************************************
* This model is for simulation purposes only. It does   *
* not replace reviewing of the data sheet nor real life *
* testing of the part inside the application.           *
*********************************************************
*
.subckt BAT54C A1 A2 K  params: Vrrm=30 Vrsm=30 Ir=2u Irsm=2u Vf=1.0 Ifav=0.1 Rs=0.125 trr=5n Cj=10p Eg=0.69 Xti=2

* Above values are an example for the ***BAT54C***. Using the
* above symbol file allows for direct insertion of other values
* according to these data sheet parameters:
*
* Vrrm    	Repetitive peak reverse voltage
* Ir		Leakage current
* Vrsm    	Surge peak reverse voltage / Reverse avalanche breakdown voltage
* Irsm		Defined at avalanche diodes, otherwise set Irsm = Ir
* Vf		Forward voltage
* Ifav		Test current for Vf, usually equal to average forward rectified current
* trr		Reverse recovery time; for Schottky, set trr=5n
* Cj		Junction capacitance at 0V
*
* Activation energy: Eg=1.11 for Si (pn) rectifier, Eg=.69 for Schottky (metal barrier) rectifier
* Series resistance: Rs=(Vf@3*Ifav - Vf@Ifav)/(3*Ifav - Ifav) from data sheet curve
* Sat.-current temp. exp: Xti=3 for Si (pn) rectifier, Xti=2 for Schottky (metal barrier) rectifier

D1 A1 K Diode
D2 A2 K Diode


.model Diode D(Is={Ir/20} Bv={Vrsm*1.05} Ibv={Ir} Vpk={Vrrm} N={.8*Vf/25m/(ln(Ifav)-ln(Ir/20))} Rs={Rs} Eg={Eg} Xti={Xti} Iave={Ifav} Cjo={Cj} M=.33 Tt={trr} Vp=.5 mfg=Diotec)

.ends
