* source LM74502_TRANS
V_V1         VINA 0  
+PULSE 0 40 1m 30m 1u 1 2
X_C3    0 VOUTA LM74502_Startup_C3 
R_R1         N16773172 VINA  100k TC=0,0 
C_C4         0 VINA  0.165u  
R_RLOAD         0 VOUTA  {12/2}  
R_R2         0 N16773172  3.48k TC=0,0 
X_Q1          VINA GATE VOUTA DMT6007LFG
C_C2         0 VOUTA  2.2u  
D_D1         0 VINA SMBJ33A 
C_C1         VCAP VINA  100n  
X_U1          VINA GATE 0 N16774384 N16773172 VINA VOUTA VCAP LM74502_TOP

.subckt LM74502_Startup_C3 1 2  
C_C3         1 _SR C_C3 220u  
.model         C_C3 CAP C=1      
RESR_C3         _SR 2 0.16   
.ends LM74502_Startup_C3
